US06573388B1
To a magnetically stirred solution of 2(S)-t-butyldimetylsilyloxy-3(R)-(t-butyloxycarbonyl)amino-1-chloro-4-phenylbutane (30.0 mg, 0.073 mmol) in THF (0.5 mL) was added a 1 M solution of TBAF in THF (0.11 mL, 0.109 mmol) at 0° C. After 10 min, stirring was continued at room temperature for 40 min. The reaction mixture was treated with sat NH4Cl (0.5 mL), diluted with water (2 mL), and extracted with EtOAc (3 mL×3). The combined organic layers were washed with brine (3 mL), dried over anhyd magnesium sulfate, filtered, and concentrated. The residue was dissolved with MeOH (0.5 mL) and treated with KOH at 0° C. Stirring was continued at room temperature for 2 h. Solvent was removed under reduced pressure, diluted with water (2 mL), and extracted with EtOAc (3 mL×3). The combined organic layers were washed with brine (3 mL), dried over anhydrous magnesium sulfate, filtered, concentrated and column-chromatographed (10% EtOAc in n-Hex) to provide 3(S)-(t-butyloxycarbonyl)amino-1,2(S)-epoxy-4-phenylbutane (14.4 mg) as a white solid.

reactant | 2(S)-t-butyldimetylsilyloxy-3(R)-(t-butyloxycarbonyl)amino-1-chloro-4-phenylbutane | 0.073 mmol, 30.0 mg | [Si](C)(C)(C(C)(C)C)O[C@H](CCl)[C@@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C | C21H36ClNO3Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | NH4Cl | 0.5 mL | [NH4+].[Cl-]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | THF | 0.109 mmol, 0.11 mL | C1CCOC1 | C4H8O
product | 3(S)-(t-butyloxycarbonyl)amino-1,2(S)-epoxy-4-phenylbutane | 14.4 mg, Yield: 75% | C(C)(C)(C)OC(=O)N[C@H]([C@H]1CO1)CC1=CC=CC=C1 | C15H21NO3
